US08912208B2
C. {4-[4-(3-Methoxy-5-phenylamino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester
To a solution of {4-[4-(5-Amino-3-methoxy-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (0.12 g, 0.3 mmol, 1.0 equiv) and phenyl boronic acid (0.082 g, 0.67 mmol, 2.0 equiv) in 5 Ml dichloromethane was added pyridine (0.054 Ml, 0.67 mmol, 2.0 equiv), copper (II) acetate (0.092 g, 0.50 mmol, 1.5 equiv), and 4 Å molecular sieves. The heterogeneous reaction mixture was allowed to stir open to atmosphere for 18 h. Removal of solvent and purification by silica gel chromatography (40% EtOAc in hexanes) afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.14-1.31 (m, 2 H) 1.50 (br. S., 1 H) 1.55 (dd, J=12.51, 2.40 Hz, 2 H) 1.87 (d, J=12.38 Hz, 5 H) 2.31 (d, J=6.57 Hz, 2 H) 3.66 (s, 3 H) 3.86 (s, 3 H) 6.96 (t, J=7.33 Hz, 1 H) 7.20-7.38 (m, 7 H) 7.82 (d, J=8.34 Hz, 2 H) 8.11 (d, J=2.02 Hz, 1 H) 8.53 (s, 1 H); (M+H)+ 431.2.

reactant | {4-[4-(5-Amino-3-methoxy-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.3 mmol, 0.12 g, 1.0 equiv | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1OC)N)=O | C21H26N2O3
reactant | phenyl boronic acid | 0.67 mmol, 0.082 g, 2.0 equiv | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 0.67 mmol, 2.0 equiv | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) acetate | 0.50 mmol, 0.092 g, 1.5 equiv | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | {4-[4-(3-Methoxy-5-phenylamino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1OC)NC1=CC=CC=C1)=O | C27H30N2O3
